US04167638
A Skraup reaction of 4,5 -dimethoxy-2-nitroaniline with methyl vinyl ketone gave a 27% yield of 5,6-dimethoxy-4-methyl-8-nitroquinoline. The yellow compound crystallized well from methanol; mp 126°-127.5°.

reactant | 4,5 -dimethoxy-2-nitroaniline | COC1=CC(=C(N)C=C1OC)[N+](=O)[O-] | C8H10N2O4
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
product | 5,6-dimethoxy-4-methyl-8-nitroquinoline | 27% yield | COC1=C2C(=CC=NC2=C(C=C1OC)[N+](=O)[O-])C | C12H12N2O4
